US06352993B1
5,6-dimethyl-2-butylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After butylamine(0.52 ml, 5.22 mmol) and triethylamine(0.36 ml, 2.59 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.5 g, 1.74 mmol) in dimethylformamide, 430 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | butylamine | 5.22 mmol, 0.52 ml | C(CCC)N | C4H11N
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)C)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-butylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 430 mg, Yield: 68.5% | Cl.CC=1C(=NC(=NC1C)NCCCC)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C20H28N4.ClH/c1-5-6-12-21-20-22-15(3)14(2)19(23-20)24-13-11-17-9-7-8-10-18(17)16(24)4;/h7-10,16H,5-6,11-13H2,1-4H3,(H,21,22,23);1H
